US07081465B2
A mixture of N-(4-methoxyphenyl)-[3-(naphthalen-2-yloxy)propyl]amine (0.5 gm, 0.002 mole) and ethyl bromide(0.52 ml, 0.003 mole) was taken in dry acetone (40 ml). It was refluxed for 12 hrs and the progress of reaction checked by TLC. Reaction mixture was filtered and the filtrate was concentrated to get oily compound which was further crystallized by benzene hexane mixture to get N-(4 methoxyphenyl)-N-ethyl [3-(naphthalen-2-yloxy)propylamine, crystallized as yellow oil, (yield 0.64 gm, 94.6%).

reactant | N-(4-methoxyphenyl)-[3-(naphthalen-2-yloxy)propyl]amine | 0.002 mole, 0.5 gm | COC1=CC=C(C=C1)NCCCOC1=CC2=CC=CC=C2C=C1 | C20H21NO2
reactant | ethyl bromide | 0.003 mole, 0.52 ml | C(C)Br | C2H5Br
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3-(naphthalen-2-yloxy)propylamine | C1=C(C=CC2=CC=CC=C12)OCCCN | C13H15NO
